US08084448B2
E. 5-[2-Hydroxy-4-(2-methoxymethylbenzyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A solution of 5-[2-benzyloxy-4-(2-methoxymethylbenzyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one (270 mg) in ethanol (5 mL) is hydrogenated over 5% Pd/C at 1 atm for 2 h. The catalyst is removed by filtration through Celite and the solvent is removed under reduced pressure. The residue is purified by preparative HPLC to give the title compound. (M−1)−=361. HPLC retention time=1.01 min (Method A).

reactant | 5-[2-benzyloxy-4-(2-methoxymethylbenzyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 270 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CC1=C(C=CC=C1)COC)N1CC(NS1(=O)=O)=O | C24H24N2O5S
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 5-[2-Hydroxy-4-(2-methoxymethylbenzyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)CC1=C(C=CC=C1)COC)N1CC(NS1(=O)=O)=O | C17H18N2O5S
